US06559173B1
3-{[5-(4-Ethoxy-phenyl)-2H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 5-(4-ethoxy-phenyl)-2H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.2635 gms. 5-(4-ethoxy-phenyl)-2H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (2.0 mL) overnight.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-(4-ethoxy-phenyl)-2H-pyrazol-3-ylamine | C(C)OC1=CC=C(C=C1)C=1C=C(NN1)N | C11H13N3O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 3-{[5-(4-Ethoxy-phenyl)-2H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one | C(C)OC1=CC=C(C=C1)C=1C=C(NN1)NC=C1C(NC2=CC=CC=C12)=O | C20H18N4O2
